US07538931B2
Had=1-Benzyl-2-pyridin-2-yl-1H-benzimidazole
To a flask were added 2.0 g 2-(2-pyridyl)benzimidazole, 1.8 g potassium carbonate, 30 ml N,N-dimethylformamide and the mixture was stirred under nitrogen at 10 C. 1.5 g benzyl chloride were added and the mixture allowed to warm to 22 C and stirred for 3 hours. Another 0.3 g benzyl chloride was added and the reaction was stirred at 22 C for another 16 hours. The reaction was quenched with 40 ml water and the product was filtered and washed with water. The product was dissolved in 10 ml ethanol and 15 ml of water were added. After cooling to 5 C, the product was filtered, washed and dried resulting in 2.4 g of off-white solid.

reactant | 2-(2-pyridyl)benzimidazole | 2.0 g | N1=C(C=CC=C1)C=1NC2=C(N1)C=CC=C2 | C12H9N3
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 1.5 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | benzyl chloride | 0.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-Benzyl-2-pyridin-2-yl-1H-benzimidazole | 2.4 g | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)C2=NC=CC=C2 | C19H15N3
